US07799823B2
The preparation of 2-(4-Cyano-3-trifluoromethyl-phenoxy)-N-(2,4-dimethoxy-benzyl)-4-hydroxy-3,3-dimethyl-butyramide
A suspension comprised of (±)-4-(4,4-dimethyl-2-oxo-tetrahydro-furan-3-yloxy)-2-trifluoromethyl-benzonitrile (81.55 g; 272.5 mmol), 2,4-dimethoxybenzylamine (50.40 g; 295.4 mmol), and methanol (300 mL) was stirred at ambient temperature under a nitrogen atmosphere overnight. The suspension became a clear solution. The reaction mixture was concentrated in vacuo to afford a cloudy orange oil (145 g.) The oil was triturated with diethyl ether (500 mL) over a steam bath to gentle boiling. The flask was removed from the steam bath as a solid began to slowly form. The oil was scratched with a spatula which accelerated solid formation and the solids were collected by vacuum filtration to afford 107.25 g of an off-white amorphous solid. The mother liquor was concentrated in vacuo to give 28.35 g of a crude red-brown oil. This oil was purified by flash silica column chromatography (Isco Fraction Collector with Biotage 65i 330 g silica cartridge.) Elution with a gradient (98:2 v/v hexanes-ethyl acetate to 100% ethyl acetate over 1 hour, 12 minutes, 18×150 mm tubes, each filled to 27 mL mark in 30 seconds) afforded 20 g of a light-yellow solid. The material was recrystallized from diethyl ether to afford 9.659 g of a white crystalline solid; 1H-NMR (400 MHz; CDCl3) δ 7.61 (d, 1H, J=8.8 Hz), 7.24 (d, 1H, J=2.5 Hz), 7.07 (d, 1H, J=8.2 Hz), 6.94 (dd, 1H, J=8.8, 2.5 Hz), 6.58 (t, 1 H, J=5.6 Hz), 6.37 (dd, 1H, J=8.4, 2.5 Hz), 6.28 (d, 1H, J=2.4 Hz), 4.52 (s, 1H), 4.37-4.25 (m, 2H), 3.78 (s, 3H), 3.58 (s, 3H), 3.50 (d, 1H, J=11.7 Hz), 3.42 (d, 1H, J=11.7 Hz), 1.09 (s, 3H), 0.97 (s, 3H); 19F-NMR (376 MHz; CDCl3) δ −62.70 (s, 3F); MS (APCl+) 467.3 (M+1,100); (APCl−) 465.2 (M−1, 14), 186.0 (100).

reactant | (±)-4-(4,4-dimethyl-2-oxo-tetrahydro-furan-3-yloxy)-2-trifluoromethyl-benzonitrile | 272.5 mmol, 81.55 g | CC1(C(C(OC1)=O)OC1=CC(=C(C#N)C=C1)C(F)(F)F)C | C14H12F3NO3
reactant | 2,4-dimethoxybenzylamine | 295.4 mmol, 50.40 g | COC1=C(CN)C=CC(=C1)OC | C9H13NO2
solvent | methanol | 300 mL | CO | CH4O
product | 2-(4-Cyano-3-trifluoromethyl-phenoxy)-N-(2,4-dimethoxy-benzyl)-4-hydroxy-3,3-dimethyl-butyramide | 107.25 g | C(#N)C1=C(C=C(OC(C(=O)NCC2=C(C=C(C=C2)OC)OC)C(CO)(C)C)C=C1)C(F)(F)F | C23H25F3N2O5
